US08048909B2
N-methyl-1-[1-(phenylsulfonyl)-5-(3-thienyl)-1H-pyrrol-3-yl]methanamine hydrochloride
To a solution of tert-butyl methyl{[1-(phenylsulfonyl)-5-(3-thienyl)-1H-pyrrol-3-yl]methyl}carbamate (0.62 g) in methanol (10 mL) was added 4 mol/L hydrogen chloride-ethyl acetate solution (6 mL), and the mixture was stirred at room temperature for 3 hr. Activated carbon was added to the reaction mixture, the mixture was filtrated, and the filtrate was concentrated under reduced pressure. The residue was recrystallized from ethanol to give the title compound as a colorless solid (yield 0.38 g, 71%).

reactant | tert-butyl methyl{[1-(phenylsulfonyl)-5-(3-thienyl)-1H-pyrrol-3-yl]methyl}carbamate | 0.62 g | CN(C(OC(C)(C)C)=O)CC1=CN(C(=C1)C1=CSC=C1)S(=O)(=O)C1=CC=CC=C1 | C21H24N2O4S2
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 6 mL | C(C)(=O)OCC.Cl
solvent | methanol | 10 mL | CO | CH4O
product | N-methyl-1-[1-(phenylsulfonyl)-5-(3-thienyl)-1H-pyrrol-3-yl]methanamine hydrochloride | yield 0.38 g, 71% | Cl.CNCC1=CN(C(=C1)C1=CSC=C1)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C16H16N2O2S2.ClH/c1-17-10-13-9-16(14-7-8-21-12-14)18(11-13)22(19,20)15-5-3-2-4-6-15;/h2-9,11-12,17H,10H2,1H3;1H
